US04874873
A mixture of N-(2-hydroxy)butyl-3-aminobenzotrifluoride (106.86 g, 0.458 mol) and di-t-butyl dicarbonate (110.0 g, 0.504 mol), under N2, was heated on a steam bath with occasional swirling. After 10 hours, gas evolution had ceased. The crude product was then combined with ether (300 mL), washed with water (3×250 mL) and with saturated NaCl solution (1×250 mL), and dried over Na2SO4, after which the solvent was removed to give N-(2-hydroxy)butyl-N-t-butoxy-carbonyl-3-aminobenzotrifluoride (152.73 g, 100%) as a thick colorless oil.

reactant | N-(2-hydroxy)butyl-3-aminobenzotrifluoride | 0.458 mol, 106.86 g | OC(CNC=1C=C(C=CC1)C(F)(F)F)CC | C11H14F3NO
reactant | di-t-butyl dicarbonate | 0.504 mol, 110.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ether | 300 mL | CCOCC | C4H10O
product | N-(2-hydroxy)butyl-N-t-butoxy-carbonyl-3-aminobenzotrifluoride | 152.73 g, 100% | OC(CN(C=1C(C(C=CC1)C(F)(F)F)=C=O)OC(C)(C)C)CC | C16H22F3NO3
